US07858785B2
1-(2-(5-(3-(1H-Tetrazol-5-yl)phenyl)-4-(5-(4-fluorophenylsulfonyl)thiophen-2-yl)pyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione
A mixture of 3-(2-(2-(5,5-dimethyl-2,4-dioxoimidazolidin-1-yl)ethylamino)-4-(5-(4-fluorophenylsulfonyl)thiophen-2-yl)pyrimidin-5-yl)benzonitrile (110 mg, 0.19 mmol), trimethylsilyl azide (178 mg, 1.52 mmol) and dibutyltin oxide (47 mg, 0.19 mmol) in N,N-dimethylformamide (5 mL) was heated at 120° C. for 24 h. After cooling to rt, 10 mL of aqueous hydrochloric acid (10%) was added and the resulting mixture was stirred for 30 min. Saturated sodium bicarbonate was added to adjust to pH 5 and the mixture was extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with brine (3×50 mL), dried over anhydrous sodium sulfate and filtered. The solvent was removed in vacuo and the product purified by flash chromatography eluting with methanol (containing 10% acetic acid)/dichloromethane (1:20). MS (M+H)+ 634.

reactant | 3-(2-(2-(5,5-dimethyl-2,4-dioxoimidazolidin-1-yl)ethylamino)-4-(5-(4-fluorophenylsulfonyl)thiophen-2-yl)pyrimidin-5-yl)benzonitrile | 0.19 mmol, 110 mg | CC1(C(NC(N1CCNC1=NC=C(C(=N1)C=1SC(=CC1)S(=O)(=O)C1=CC=C(C=C1)F)C=1C=C(C#N)C=CC1)=O)=O)C | C28H23FN6O4S2
reactant | trimethylsilyl azide | 1.52 mmol, 178 mg | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | dibutyltin oxide | 0.19 mmol, 47 mg | C(CCC)[Sn](CCCC)=O
reactant | hydrochloric acid | 10 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-(2-(5-(3-(1H-Tetrazol-5-yl)phenyl)-4-(5-(4-fluorophenylsulfonyl)thiophen-2-yl)pyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione | N1N=NN=C1C=1C=C(C=CC1)C=1C(=NC(=NC1)NCCN1C(NC(C1(C)C)=O)=O)C=1SC(=CC1)S(=O)(=O)C1=CC=C(C=C1)F | C28H24FN9O4S2
